US09399639B2
Step 1) chloromethyl 2-((tert-butoxycarbonyl)amino)acetate
The title compound was prepared according to the procedure as described in Example 17 Step 1 using 2-((tert-butoxycarbonyl)amino)acetic acid (1 g, 5.7 mmol) in DCM (25 mL) and H2O (25 mL), NaHCO3 (1.92 g, 22.8 mmol), TBAHSO4 (194 mg, 0.57 mmol) and a solution of chloromethyl sulfochloridate (693 mL, 6.8 mmol) in DCM (5 mL). The title compound was obtained as colorless oil (911 mg, 71.3%).

reactant | 2-((tert-butoxycarbonyl)amino)acetic acid | 5.7 mmol, 1 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | NaHCO3 | 22.8 mmol, 1.92 g | C(=O)(O)[O-].[Na+]
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | chloromethyl 2-((tert-butoxycarbonyl)amino)acetate | C(C)(C)(C)OC(=O)NCC(=O)OCCl | C8H14ClNO4
